US05780642
4-Bromomethylbenzonitrile was reacted with sodium sulphite followed by phosphorus pentachloride to give 4-cyanobenzylsulphonyl chloride which was reacted with pentylamine in a similar manner to N14 to give the title compound.

reactant | 4-Bromomethylbenzonitrile | BrCC1=CC=C(C#N)C=C1 | C8H6BrN
reactant | sodium sulphite | S(=O)([O-])[O-].[Na+].[Na+]
reactant | phosphorus pentachloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
product | 4-cyanobenzylsulphonyl chloride | C(#N)C1=CC=C(CS(=O)(=O)Cl)C=C1 | C8H6ClNO2S
